US04938790
Preparation of 1-(2-Methoxymethoxy-phenyl)-1-(4-methyl-2-methoxyphenyl)cyclopropane.
The general procedure of Example 34 was followed using 1-(2-methoxymethoxyphenyl)-1-(4-methyl-2-methoxyphenyl)ethene and, initially, 3.3 moles of phenylthiomethyl lithium reagent per mole of olefin. The title compound was obtained as a clear oil in 44 percent yield and its structure was verified by proton NMR spectroscopy.

reactant | 1-(2-methoxymethoxyphenyl)-1-(4-methyl-2-methoxyphenyl)ethene | COCOC1=C(C=CC=C1)C(=C)C1=C(C=C(C=C1)C)OC | C18H20O3
reactant | phenylthiomethyl lithium | 3.3 moles | C1(=CC=CC=C1)SC[Li]
product | 1-(2-Methoxymethoxy-phenyl)-1-(4-methyl-2-methoxyphenyl)cyclopropane | 44 percent yield | COCOC1=C(C=CC=C1)C1(CC1)C1=C(C=C(C=C1)C)OC | C19H22O3
